US06743792B2
A mixture of (3,4-dichlorophenyl)acetonitrile (0.149 mol) in DMF (100 ml) was stirred at 0° C. under N2 flow. Sodium hydride (0.223 mol) was added portionwise. The mixture was stirred at 0° C. under N2 flow for 1 hour. A mixture of, 2-methoxy-1,3-dimethyl-5-nitrobenzene (0.149 mol) in DMF (100 ml) was added dropwise at 0° C. under N2 flow. The mixture was stirred at RT for 6 hours, then cooled, hydrolized with H2O and with HCl 3N and extracted with EtOAc. The organic layer was separated, washed several times with H2O, dried, filtered and the solvent was evaporated. The residue was crystallized from DIPE. The precipitate was filtered off and dried, yielding 43.4 g (87%) of (±)-α-(3,4-dichlorophenyl)-2,6-dimethyl-4-nitrobenzeneacetonitrile (interm. 48).

reactant | (3,4-dichlorophenyl)acetonitrile | 0.149 mol | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | Sodium hydride | 0.223 mol | [H-].[Na+]
reactant | 2-methoxy-1,3-dimethyl-5-nitrobenzene | 0.149 mol | COC1=C(C=C(C=C1C)[N+](=O)[O-])C | C9H11NO3
reactant | HCl | 3N | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | (±)-α-(3,4-dichlorophenyl)-2,6-dimethyl-4-nitrobenzeneacetonitrile | 43.4 g, 87% | ClC=1C=C(C=CC1Cl)C(C#N)C1=C(C=C(C=C1C)[N+](=O)[O-])C | C16H12Cl2N2O2
